US08304419B2
Step F: 2-bromo-4,5-dichloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole
A solution of 2-bromo-4,5-dichloro-1H-imidazole (2.16 g, 10 mmol) in THF (25 mL) was added dropwise to a suspension of NaH (440 mg of a 60% suspension in mineral oil, 11 mmol) in THF (20 mL) at 0° C. The mixture was stirred at RT for 2 h, cooled to 0° C. and {2-[(chloromethyl)oxy]ethyl}(trimethyl)silane (1.9 mL, 11 mmol) was added dropwise. The mixture was stirred at RT overnight. Saturated NaHCO3 was added and the aqueous layer was extracted with CH2Cl2. The organic layer was dried (Na2SO4), filtered, concentrated and purified by silica gel chromatography (0-50% CH2Cl2/hexanes) to give the title compound (3.26 g, 95%) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 5.26 (2H, s) 3.55-3.61 (2H, m) 0.88-0.94 (2H, m) −0.02 (9H, s). LCMS: m/z 346 (M+1).

reactant | 2-bromo-4,5-dichloro-1H-imidazole | 10 mmol, 2.16 g | BrC=1NC(=C(N1)Cl)Cl | C3HBrCl2N2
reactant | NaH | [H-].[Na+]
reactant | {2-[(chloromethyl)oxy]ethyl}(trimethyl)silane | 11 mmol, 1.9 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-bromo-4,5-dichloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole | 3.26 g, 95% | BrC=1N(C(=C(N1)Cl)Cl)COCC[Si](C)(C)C | C9H15BrCl2N2OSi
